US07442708B2
(1-Hydroxy-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone
A solution of 5 g (12 mmol) of [1-(benzyloxy-2-methylindolizin-3-yl](3-methoxy-4-nitrophenyl)methanone, a compound of Example 3, in 30 ml of trifluoroacetic acid, is heated under reflux for 2 hours.

reactant | 1-(benzyloxy-2-methylindolizin-3-yl](3-methoxy-4-nitrophenyl)methanone | C(C1=CC=CC=C1)OC=1C(=C(N2C=CC=CC12)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C24H20N2O5
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1-Hydroxy-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone | OC=1C(=C(N2C=CC=CC12)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C17H14N2O5
